US09260440B2
Compound 25: 2,2,5,10-tetramethyl-2,3,5,10-tetrahydro-[1,2]diazepino[3,4,5,6-def]carbazol-6(1H)-one
The desired product was prepared using a procedure similar to step 1 of Example 22. Subsequently, 2,2-dimethyl-2,3,5,10-tetrahydro-[1,2]diazepino[3,4,5,6-def]carbazol-6(1H)-one (0.02 g, 0.08 mmol) was reacted with NaH (2.4 mg, 0.1 mmol) and methyl iodide (0.06 g, 0.4 mmol) in DMF (2 ml) to give the desired product (20 mg, 95%) as yellow solid. 1H NMR (DMSO-d6) δ 7.51-7.55 (m, 2H), 7.16 (t, 1H, J=7.8 Hz), 3.69 (s, 3H), 3.42 (s, 3H), 2.72 (s, 2H), 2.27 (s, 2H), and 1.09 (s, 6H). MS (ESI) m/e [M+1]+ 282.

reactant | 2,2-dimethyl-2,3,5,10-tetrahydro-[1,2]diazepino[3,4,5,6-def]carbazol-6(1H)-one | 0.08 mmol, 0.02 g | CC1(CC=2NC=3C=CC=C4C3C2C(C1)=NNC4=O)C | C15H15N3O
reactant | NaH | 0.1 mmol, 2.4 mg | [H-].[Na+]
reactant | methyl iodide | 0.4 mmol, 0.06 g | CI | CH3I
reactant | DMF | 2 ml | CN(C)C=O | C3H7NO
product | 2,2,5,10-tetramethyl-2,3,5,10-tetrahydro-[1,2]diazepino[3,4,5,6-def]carbazol-6(1H)-one | 20 mg, 95% | CC1(CC=2N(C=3C=CC=C4C3C2C(C1)=NN(C4=O)C)C)C | C17H19N3O
